US07592363B2
3-{4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}BENZAMIDE
3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzoic acid (39 mg, 0.08 mmol) in 0.8 mL dioxane was added to NbCl5 (64 mg, 0.238 mmol), followed by 0.95 mL NH3 (0.5M in dioxane). The temperature was slowly raised to 50° C. and stirred for 2 days. The solvents were evaporated and the residue dissolved in CH2Cl2, followed by filtration of the precipitate. The residue was dissolved in CH2Cl2 and washed with brine. The combined organic phases were dried, evaporated and the crude material was purified by HPLC using a gradient with an acidic mobile phase on an ACE-C8 column to afford analytically pure product.

reactant | 3-{4-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}benzoic acid | 0.08 mmol, 39 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1)C(F)(F)F | C28H19F3N2O3
reactant | NH3 | 0.5M, 0.95 mL | N | H3N
solvent | dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | 3-{4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}BENZAMIDE | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(OC=2C=C(C(=O)N)C=CC2)C=C1)C(F)(F)F | C28H20F3N3O2
